US07514460B2
Intermediate 17: [3-(4-Chloro-6-methoxy-quinazolin-7-yloxy)-propyl]-dimethyl-amine
The compound was synthesised according to GP 4 from 4-chloro-7-hydroxy-6-methoxy-quinazoline and 3-Dimethylamino-propan-1-ol. LC/ESI-MS: m/z=296 [M+H].

reactant | 4-chloro-7-hydroxy-6-methoxy-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)O | C9H7ClN2O2
reactant | 3-Dimethylamino-propan-1-ol | CN(CCCO)C | C5H13NO
product | [3-(4-Chloro-6-methoxy-quinazolin-7-yloxy)-propyl]-dimethyl-amine | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN(C)C | C14H18ClN3O2
